US06479490B2
A mixture of 4-isopropoxy-2-methyl-1-nitrobenzene (3.55 g,0.018 mol) and tert-butoxybis(dimethylamino)methane (9 mL) was refluxed for 4 hours and the volatile was removed. The dark brown residue was dissolved in THF (150 mL) and hydrogenated with catalytic amount of 10% Pd on Carbon with H2 in a balloon. After stirring at room temperature overnight, the catalyst was filtered off and the filtrate was concentrated to afford 3.07 g 5-isopropoxyindole (96%). MS(EI): (M+1) 176.

reactant | 4-isopropoxy-2-methyl-1-nitrobenzene | 0.018 mol, 3.55 g | C(C)(C)OC1=CC(=C(C=C1)[N+](=O)[O-])C | C10H13NO3
reactant | tert-butoxybis(dimethylamino)methane | 9 mL | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 5-isopropoxyindole | 3.07 g, 96% | C(C)(C)OC=1C=C2C=CNC2=CC1 | C11H13NO
